US07714010B2
d) 2,2,2-Trifluoro-N-(2′-oxo-1′-pentyl-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide
5′-Amino-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one (1.8 g) and trifluoro acetic anhydride (4.54 g; 21.6 mmol) are dissolved in dry CH2Cl2 (5 ml). After addition of NEt3 (2.19 g; 21.6 mmol) the mixture is stirred at RT for 25 min. After dilution with 0.1 N hydrochloric acid the mixture is extracted with CH2Cl2. The combined organic layer is washed with saturated NaHCO3 solution and brine, dried over MgSO4 and concentrated in vacuo to give the title compound (2.4 g).

reactant | 5′-Amino-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 1.8 g | NC=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3 | C15H20N2O
reactant | trifluoro acetic anhydride | 21.6 mmol, 4.54 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NEt3 | 21.6 mmol, 2.19 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-(2′-oxo-1′-pentyl-spiro[cyclopropane-1,3′-indole]-5′-yl)-acetamide | 2.4 g | FC(C(=O)NC=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3)(F)F | C17H19F3N2O2
